US07705028B2
9a) Methyl 7-[4-({[3-[2-(2,6-dichlorophenyl)ethyl]-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-naphthalenecarboxylate
A solution of [3-[2-(2,6-dichlorophenyl)ethyl]-5-(1-methylethyl)-4-isoxazolyl]methanol (0.050 g, 0.16 mmol), methyl 7-(4-hydroxyphenyl)-2-naphthalenecarboxylate (0.045 g, 0.16 mmol), triphenyl phosphine (0.042 g, 0.16 mmol) and diisopropyl azodicarboxylate (0.043 mL, 0.16 mmol) in dichloromethane (1.6 mL) was placed in microwave reaction tube and heated to 80° C. for 20 minutes. The solution was concentrated and the residue was purified by chromatography (silica gel, hexane to 3:7 ethyl acetate:hexanes) to provide the title compound (0.059 g, 64%). 1H NMR (DMSO-d6): δ 8.68 (s, 1H), 8.40 (s, 1H), 8.07-7.93 (m, 4H), 7.80 (d, J=7 Hz, 2H), 7.42 (d, J=8 Hz, 2H), 7.28-7.24 (m, 1H), 7.14 (d, J=7 Hz, 2H), 4.99 (s, 2H), 3.91 (s, 3H), 3.32-3.20 (2 m, overlapping H2O, total 3H), 2.89-2.85 (m, 2H), 1.25 (d, J=7 Hz, 6H). ESI-LCMS m/z 574 (M+H)+.

reactant | [3-[2-(2,6-dichlorophenyl)ethyl]-5-(1-methylethyl)-4-isoxazolyl]methanol | 0.16 mmol, 0.050 g | ClC1=C(C(=CC=C1)Cl)CCC1=NOC(=C1CO)C(C)C | C15H17Cl2NO2
reactant | methyl 7-(4-hydroxyphenyl)-2-naphthalenecarboxylate | 0.16 mmol, 0.045 g | OC1=CC=C(C=C1)C1=CC=C2C=CC(=CC2=C1)C(=O)OC | C18H14O3
reactant | triphenyl phosphine | 0.16 mmol, 0.042 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.16 mmol, 0.043 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | dichloromethane | 1.6 mL | ClCCl | CH2Cl2
product | Methyl 7-[4-({[3-[2-(2,6-dichlorophenyl)ethyl]-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-naphthalenecarboxylate | 0.059 g, 64% | ClC1=C(C(=CC=C1)Cl)CCC1=NOC(=C1COC1=CC=C(C=C1)C1=CC=C2C=CC(=CC2=C1)C(=O)OC)C(C)C | C33H29Cl2NO4
